US08242104B2
To a solution of methyl 2-(1-(2-chlorophenyl)-1H-imidazol-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate (0.100 g, 0.238 mmol) in tetrahydrofuran (5.56 mL, 68.5 mmol) and Water (5.56 mL, 308 mmol) was added Lithium hydroxide, monohydrate (0.0399 g, 0.950 mmol). The reaction mixture was stirred at rt o/n. The reaction mixture was concentrated. The reaction mixture was acidified with 1M HCl then extracted with DCM (3×). The combined organics were dried over Na2SO4, filtered and concentrated to give 2-(1-(2-chlorophenyl)-1H-imidazol-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylic acid. MS: (ESI+)=407.2

reactant | methyl 2-(1-(2-chlorophenyl)-1H-imidazol-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate | 0.238 mmol, 0.100 g | ClC1=C(C=CC=C1)N1C(=NC=C1)C=1N=C2N(CCOC3=C2C=C(C=C3)C(=O)OC)C1 | C22H17ClN4O3
reactant | tetrahydrofuran | 68.5 mmol, 5.56 mL | O1CCCC1 | C4H8O
reactant | Water | 308 mmol, 5.56 mL | O | H2O
reactant | Lithium hydroxide, monohydrate | 0.950 mmol, 0.0399 g | O.[OH-].[Li+]
product | 2-(1-(2-chlorophenyl)-1H-imidazol-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylic acid | ClC1=C(C=CC=C1)N1C(=NC=C1)C=1N=C2N(CCOC3=C2C=C(C=C3)C(=O)O)C1 | C21H15ClN4O3
